US03939166
4-Chloro-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole is reacted with the sodium derivative of 4-hexyn-2-ol to obtain 4-(1-methyl-3-pentyn-1-yloxy)-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole, m.w., 402.3.

reactant | 4-Chloro-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(C(F)(F)F)(F)F)[N+](=O)[O-])C#N | C10H2ClF5N4O2
reactant | sodium | [Na] | Na
reactant | 4-hexyn-2-ol | CC(CC#CC)O | C6H10O
product | 4-(1-methyl-3-pentyn-1-yloxy)-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole | CC(CC#CC)OC1=C(C=C(C=2N=C(NC21)C(C(F)(F)F)(F)F)[N+](=O)[O-])C#N | C16H11F5N4O3
